** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/res_tb_tran.sch
**.subckt res_tb_tran
VDD VDD GND {VDD}
Vmeas vd net1 0
.save i(vmeas)
E2 vd GND VOL=' {Vcm}+V(vsweep)/2 '
E3 vb GND VOL=' {Vcm}-V(vsweep)/2 '
vc sw1 GND PULSE(0 3.3 {0.01*period} 100p 100p {0.48*period} {period})
x1 sw1 VDD GND net1 vb sw2 switched_cap_cell
VS1 vsweep GND 1
vc1 sw2 GND PULSE(0 3.3 {-0.01*period} 100p 100p {0.52*period} {period})
**** begin user architecture code


* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param period=60n
.csparam period=period
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all
set appendwrite

tran 20p 300n
remzerovec

save all
set appendwrite

write res_tb_tran.raw
set appendwrite

* Plotting
*plot v(vsweep)
*plot i(Vmeas)
*plot v(sw1)-4 v(sw2)-8
print mean(v(vd) - v(vb))/mean(i(Vmeas))

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice

**** end user architecture code
**.ends

* expanding   symbol:  switched_cap_cell.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sch
.subckt switched_cap_cell sw1 VDD VSS r2 r1 sw2
*.ipin sw1
*.iopin r1
*.iopin r2
*.iopin VDD
*.iopin VSS
*.ipin sw2
x1 sw1 r1 net2 net3 transmission_gate
x3 net1 r2 net2 sw2 transmission_gate
C2 net2 VSS 1p
x6 net3 sw1 VDD VSS sg13cmos5l_inv_1
x2 net1 sw2 VDD VSS sg13cmos5l_inv_1
.ends


* expanding   symbol:  transmission_gate.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sch
.subckt transmission_gate vctrl vin vout vinv
*.iopin vin
*.iopin vout
*.ipin vctrl
*.ipin nvctrl
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout nvctrl vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=1u
.param tg_ngate_w=1u
.param tg_pgate_w=4.5u
.param tg_ng=40


**** end user architecture code
.ends

.GLOBAL GND
.GLOBAL VDD
.end
